US08168668B2
21) 6-tert-butylnicotinonitrile
Pivalic acid (144 mol, 5 eq) and AgNO3 (3.76 mmol, 0.13 eq) are added to a suspension of the 3-cyanopyridine (29 mmol, 1 eq) in 40 ml H2O. The mixture is stirred for 20 min after which is added 60 ml of a 10% H2SO4 solution. The reaction is stirred for a further 20 min then heated to 70° C. An aqueous solution of (NH4)2S2O8 (8.6 mmol, 1.3 eq) is added dropwise over 30 minutes and the heating is continued for 2 hours or until completion by TLC. After cooling the in ice, 2 N NaOH is added and the reaction is extracted 3 times with ethyl acetate, dried over Na2SO4, filtered and concentration. Purification is performed on silica gel with ethyl acetate/hexanes.

reactant | Pivalic acid | 144 mol, 5 eq | C(C(C)(C)C)(=O)O | C5H10O2
reactant | 3-cyanopyridine | 29 mmol, 1 eq | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | H2O | 40 ml | O | H2O
catalyst | AgNO3 | 3.76 mmol, 0.13 eq | [N+](=O)([O-])[O-].[Ag+]
product | 6-tert-butylnicotinonitrile | C(C)(C)(C)C1=NC=C(C#N)C=C1 | C10H12N2
